US03953430
Preparation of 9-(2-Dimethylaminoethyl)-4,9-dihydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
A mixture of 0.36 g. of 55% sodium hydride-mineral oil dispersion and 0.58 g. of dimethylaminoethylchloride hydrochloride in 25 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.52 g. of 4,9-dihydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water, and extracted with chloroform. The dried chloroform extracts are concentrated to an oil, which is purified by preparative thin layer chromatography (tlc) on silica gel with 10:1 benzene:methanol as eluent. The oil obtained is crystallized from hexane to give white crystals, m.p. 119°-120°C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylaminoethylchloride hydrochloride | Cl.CN(C)CCCl
reactant | 4,9-dihydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=C(C(=C3)C)C)=O)=CSC2 | C14H14N2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(2-Dimethylaminoethyl)-4,9-dihydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN(CCN1C(C=2C(N(C3=C1C=C(C(=C3)C)C)C)=CSC2)=O)C | C18H23N3OS
